US09376442B2
4-[2-(Cyclopropylmethoxy)-4-methoxyphenyl]-N-[(3R)-1-(methoxyacetyl)pyrrolidin-3-yl]-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide
Starting from 4-[2-(cyclopropylmethoxy)-4-methoxyphenyl]-6-methyl-N-[(3R)-pyrrolidin-3-yl]-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide hydrochloride (example D.f21) and commercially methoxyacetyl chloride the title compound is obtained as colorless solid.

reactant | 4-[2-(cyclopropylmethoxy)-4-methoxyphenyl]-6-methyl-N-[(3R)-pyrrolidin-3-yl]-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide hydrochloride | Cl.C1(CC1)COC1=C(C=CC(=C1)OC)C=1C2=C(N=CN1)C(=C(N2)C)C(=O)N[C@H]2CNCC2
reactant | methoxyacetyl chloride | COCC(=O)Cl | C3H5ClO2
product | 4-[2-(Cyclopropylmethoxy)-4-methoxyphenyl]-N-[(3R)-1-(methoxyacetyl)pyrrolidin-3-yl]-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide | C1(CC1)COC1=C(C=CC(=C1)OC)C=1C2=C(N=CN1)C(=C(N2)C)C(=O)N[C@H]2CN(CC2)C(COC)=O | C26H31N5O5
